US06900216B2
A mixture of 2-bromo-1-(5-chlorobenzo[b]thiophen-2-yl)butan-1-one (1 g), 2-imidazolidinethione (0.32 g), ethanol (30 ml) and acetic acid (15 ml) was heated under reflux for 24 hours, then the solvents were removed in vacuo. The residue was crystallised from ethanol (100 ml) and the resulting solid was collected by filtration, washed with ethanol (10 ml) and dried in vacuo at 60° C. to give 3-(5-chlorobenzo[b]thiophen-2-yl)-2-ethyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.8 g) as a white solid, m.p. 282-284° C.

reactant | 2-bromo-1-(5-chlorobenzo[b]thiophen-2-yl)butan-1-one | 1 g | BrC(C(=O)C1=CC2=C(S1)C=CC(=C2)Cl)CC | C12H10BrClOS
reactant | 2-imidazolidinethione | 0.32 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-(5-chlorobenzo[b]thiophen-2-yl)-2-ethyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.8 g | Br.ClC1=CC2=C(SC(=C2)C=2N3C(SC2CC)=NCC3)C=C1 | InChI=1S/C15H13ClN2S2.BrH/c1-2-11-14(18-6-5-17-15(18)20-11)13-8-9-7-10(16)3-4-12(9)19-13;/h3-4,7-8H,2,5-6H2,1H3;1H
